US04598075
2.7 g of ethyl (Z)-2-(2-tritylaminothiazol-4-yl)-2-[(1-methyl-2-pyrrolidon-3-yl)oxyimino]acetate are suspended in 27 ml of methanol, and 4.9 ml of 2N sodium hydroxide solution are added thereto. The mixture is refluxed for 20 minutes under heating. After cooling, the mixture is concentrated under reduced pressure to remove methanol. The residue is adjusted to pH 3 with 2N hydrochloric acid and extracted with ethyl acetate. The extract is dried and evaporated under reduced pressure to remove solvent. Then, the residue thus obtained is crystallized with ether and collected by filtration. 2.15 g of (Z)-2-(2-tritylaminothiazol-4-yl)-2-[(1-methyl-2-pyrrolidon-3-yl)oxyimino]acetic acid are obtained.

reactant | ethyl (Z)-2-(2-tritylaminothiazol-4-yl)-2-[(1-methyl-2-pyrrolidon-3-yl)oxyimino]acetate | 2.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OCC)=N/OC1C(N(CC1)C)=O | C31H30N4O4S
reactant | sodium hydroxide | 2N, 4.9 ml | [OH-].[Na+]
solvent | methanol | 27 ml | CO | CH4O
product | (Z)-2-(2-tritylaminothiazol-4-yl)-2-[(1-methyl-2-pyrrolidon-3-yl)oxyimino]acetic acid | 2.15 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OC1C(N(CC1)C)=O | C29H26N4O4S
